US08202856B2
1-(4-{5-[1(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)-L-proline
The title compound was prepared following the procedure described for Example 94, but starting from 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde, obtained as described in Example 113, Step 1, (200 mg; 0.48 mmol) and (S)-pyrrolidine-2-carboxylic acid (111 mg; 0.97 mmol) to give Example 159 as an off-white solid. 1H NMR: (DMSO-d6, 400 MHz) δ 8.77-8.74 (2H, m), 7.98-7.87 (3H, m), 7.76-7.69 (1H, m), 7.64-7.57 (4H, m), 7.52 (2H, t, J=8.5 Hz), 4.11 (1H, d, J=13.5 Hz), 3.72 (1H, d, J=13.5 Hz), 3.31 (1H, dd, J=8.9, 5.9 Hz), 3.04-2.96 (1H, m), 2.50 (1H, d, J=8.5 Hz), 2.16-2.07 (1H, m), 1.94-1.84 (1H, m), 1.84-1.73 (2H, m). LC/MS (Method C): 412 (M+H)+. HPLC (Method I) Rt 15.21 min (Purity: 95.3%).

reactant | 4-(5-(1-(2-fluorophenyl)-5-(pyridin-4-yl)-1H-1,2,3-triazol-4-yl)-1,2,4-oxadiazol-3-yl)benzaldehyde | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(C=O)C=C1 | C22H13FN6O2
reactant | (S)-pyrrolidine-2-carboxylic acid | 0.97 mmol, 111 mg | N1[C@@H](CCC1)C(=O)O | C5H9NO2
product | 1-(4-{5-[1(2-fluorophenyl)-5-pyridin-4-yl-1H-1,2,3-triazol-4-yl]-1,2,4-oxadiazol-3-yl}benzyl)-L-proline | FC1=C(C=CC=C1)N1N=NC(=C1C1=CC=NC=C1)C1=NC(=NO1)C1=CC=C(CN2[C@H](C(=O)O)CCC2)C=C1 | C27H22FN7O3
